US08293736B2
4-(8-(azetidin-3-yloxy)-2-(2-ethyl-1H-benzo[d]imidazol-1-yl)-9-methyl-9H-purin-6-yl)morpholine 133
The compound was prepared from tert-butyl 3-(2-chloro-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidine-1-carboxylate in a similar manner as that of 4-(2-(2-ethyl-1H-benzo[d]imidazol-1-yl)-9-methyl-8-(piperidin-4-yloxy)-9H-purin-6-yl)morpholine, following General Procedures of Buchwald coupling shown in Scheme 3 and Boc-deprotection. The compound was used either as a mixture with unknown equivalent of trifluoroacetic acid or as a free base after treatment with aqueous base. Free base: 1H NMR (400 MHz, CDCl3) δ 7.96 (d, J=8.9 Hz, 1H), 7.74 (d, J=8.1 Hz, 1H), 5.66-5.54 (m, 1H), 4.22 (s, 4H), 4.08-3.99 (m, 2H), 3.94-3.79 (m, 6H), 3.63 (s, 3H), 3.40-3.25 (m, 3H), 1.43 (t, J=7.5 Hz, 3H). LCMS: M+H+=435.2.

reactant | tert-butyl 3-(2-chloro-9-methyl-6-morpholino-9H-purin-8-yloxy)azetidine-1-carboxylate | ClC1=NC(=C2N=C(N(C2=N1)C)OC1CN(C1)C(=O)OC(C)(C)C)N1CCOCC1 | C18H25ClN6O4
reactant | 4-(2-(2-ethyl-1H-benzo[d]imidazol-1-yl)-9-methyl-8-(piperidin-4-yloxy)-9H-purin-6-yl)morpholine | C(C)C1=NC2=C(N1C1=NC(=C3N=C(N(C3=N1)C)OC1CCNCC1)N1CCOCC1)C=CC=C2 | C24H30N8O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(8-(azetidin-3-yloxy)-2-(2-ethyl-1H-benzo[d]imidazol-1-yl)-9-methyl-9H-purin-6-yl)morpholine | N1CC(C1)OC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)CC)C | C22H26N8O2
